US07812017B2
1-(Phenylsulfonyl)-4-(piperazin-1-ylmethyl)-1H-indole hydrochloride
4-(Bromomethyl)-1-(phenylsulfonyl)-1H-indole Intermediate 2 (1.025 g), NaHCO3 (1.5 eq) and N—BOC-piperazine (1.5 eq) were refluxed in ethanol for 40 min. The reaction was monitored by TLC (eluent-system CHCl3-EtOH 20:1). The work up of the crude-extraction and further purification by column chromatography (eluent —CHCl3)—yielded the final product as an oil. This material was treated with HCl 5M in i-PrOH to yield the salt of the final product (300 mg, 24%). The synthetic route followed for preparing Example 1 is depicted in the following scheme:

reactant | 4-(Bromomethyl)-1-(phenylsulfonyl)-1H-indole | BrCC1=C2C=CN(C2=CC=C1)S(=O)(=O)C1=CC=CC=C1 | C15H12BrNO2S
reactant | NaHCO3 | 1.5 eq | C(=O)(O)[O-].[Na+]
reactant | N—BOC-piperazine | 1.5 eq | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | CHCl3 EtOH | C(Cl)(Cl)Cl.CCO
solvent | ethanol | C(C)O | C2H6O
product | 1-(Phenylsulfonyl)-4-(piperazin-1-ylmethyl)-1H-indole hydrochloride | 300 mg, 24% | Cl.C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=C(C=CC=C12)CN1CCNCC1 | InChI=1S/C19H21N3O2S.ClH/c23-25(24,17-6-2-1-3-7-17)22-12-9-18-16(5-4-8-19(18)22)15-21-13-10-20-11-14-21;/h1-9,12,20H,10-11,13-15H2;1H
